US05859256
4-hydroxymethyl-5-[2-(phenylsulfonyl)ethylthio]thiazole
To a solution of 4-ethoxycarbonyl-5-[2-(phenylsulfonyl)ethylthio]thiazole (702 mg, 2 mmol) in 20 ml of THF was added lithium borohydride (2M, 1 ml) and methanol (0.16 ml, 4 mmol) at -30° C. The reaction mixture was allowed slowly warm up to room temperature and stirred overnight. The solvent was removed under reduced pressure and the crude residue was subjected to chromatography by using dichloromethane and methanol as the eluent to give the title compound (400 mg, 65%). 1H NMR (CDCl3) δ 2.55 (s, 1H), 3.00 (t, 2H, J=6), 3.40 (t, 2H, J=6), 4.71 (s, 2H), 7.6 (t, 2H, J=7), 7.68 (t, 1H, J=7), 7.82 (d, 2H, J=7), and 8.80 (s, 1H).

reactant | 4-ethoxycarbonyl-5-[2-(phenylsulfonyl)ethylthio]thiazole | 2 mmol, 702 mg | C(C)OC(=O)C=1N=CSC1SCCS(=O)(=O)C1=CC=CC=C1 | C14H15NO4S3
reactant | lithium borohydride | 2M, 1 ml | [BH4-].[Li+]
reactant | methanol | 4 mmol, 0.16 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-5-[2-(phenylsulfonyl)ethylthio]thiazole | 400 mg, 65% | OCC=1N=CSC1SCCS(=O)(=O)C1=CC=CC=C1 | C12H13NO3S3
